Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[c:3]([C:4]#[N:5])[cH:6][cH:7][cH:8][cH:9]1.[CH3:10][NH:11][S:12]([CH3:13])(=[O:14])=[O:15]>>[CH2:1]([c:2]1[c:3]([C:4]#[N:5])[cH:6][cH:7][cH:8][cH:9]1)[N:11]([CH3:10])[S:12]([CH3:13])(=[O:14])=[O:15],[Br:101][CH2:1][c:2]1[c:3]([C:4]#[N:5])[cH:6][cH:7][cH:8][cH:9]1.[CH3:10][NH:11][S:12]([CH3:13])(=[O:14])=[O:15]>>[CH2:1]([c:2]1[c:3]([C:4]#[N:5])[cH:6][cH:7][cH:8][cH:9]1)[N:11]([CH3:10])[S:12]([CH3:13])(=[O:14])=[O:15],SN2,"[(11, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[C:3]([NH:4][C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])([c:12]1[cH:13][cH:14][cH:15][c:16]([Br:17])[cH:18]1)[C:19]([F:20])([F:21])[F:22]>>[CH2:1]([OH:2])[C:3]([NH:4][C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])([c:12]1[cH:13][cH:14][cH:15][c:16]([Br:17])[cH:18]1)[C:19]([F:20])([F:21])[F:22],CC[O:101][C:1](=[O:2])[C:3]([NH:4][C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])([c:12]1[cH:13][cH:14][cH:15][c:16]([Br:17])[cH:18]1)[C:19]([F:20])([F:21])[F:22].[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[C:3]([NH:4][C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])([c:12]1[cH:13][cH:14][cH:15][c:16]([Br:17])[cH:18]1)[C:19]([F:20])([F:21])[F:22],ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH2:1]=[CH:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]2[c:10]([cH:11]1)[C:12]([CH3:13])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[CH2:20][C:21]([CH3:22])([CH3:23])[N:24]2[C:25]([CH3:26])=[O:27].[CH3:28][CH2:29][O:30][CH2:31][CH2:32][OH:33]>>[CH2:1]([CH2:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]2[c:10]([cH:11]1)[C:12]([CH3:13])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[CH2:20][C:21]([CH3:22])([CH3:23])[N:24]2[C:25]([CH3:26])=[O:27])[O:33][CH2:32][CH2:31][O:30][CH2:29][CH3:28],[CH2:1]=[CH:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]2[c:10]([cH:11]1)[C:12]([CH3:13])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[CH2:20][C:21]([CH3:22])([CH3:23])[N:24]2[C:25]([CH3:26])=[O:27].[CH3:28][CH2:29][O:30][CH2:31][CH2:32][OH:33].[Na+].[OH1-:301]>>[CH2:1]([CH2:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]2[c:10]([cH:11]1)[C:12]([CH3:13])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[CH2:20][C:21]([CH3:22])([CH3:23])[N:24]2[C:25]([CH3:26])=[O:27])[O:33][CH2:32][CH2:31][O:30][CH2:29][CH3:28],Michael_addition,"[(301, 33.1), ([33.1, 33], 33), (33, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH2:1].[CH3:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[c:14]([O:15][CH2:16][C@H:17]2[CH2:18][CH2:19][CH2:20][NH:21]2)[cH:22]1>>[CH3:1][N:21]1[C@@H:17]([CH2:16][O:15][c:14]2[c:9]([C:10]([F:11])([F:12])[F:13])[cH:8][cH:7][c:6]([NH:5][C:3]([CH3:2])=[O:4])[cH:22]2)[CH2:18][CH2:19][CH2:20]1,[CH3:2][C:3](=[O:4])[NH:5][c:6]1[cH:7][cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[c:14]([O:15][CH2:16][C@H:17]2[CH2:18][CH2:19][CH2:20][NH:21]2)[cH:22]1.[O:101]=[CH2:1].[H+:301].[BH3-:302]C#N.[Na+]>>[CH3:1][N:21]1[C@@H:17]([CH2:16][O:15][c:14]2[c:9]([C:10]([F:11])([F:12])[F:13])[cH:8][cH:7][c:6]([NH:5][C:3]([CH3:2])=[O:4])[cH:22]2)[CH2:18][CH2:19][CH2:20]1,reductive_amination,"[(21, 1), ([1, 101], 301), (101, 21.1), ([21.1, 21], 21), (21, [21, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 21], 21)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH3:2])=[O:3].[CH3:4][O:5][CH2:6][CH2:7][CH2:8][CH:9]([NH2:10])[c:11]1[cH:12][c:13]([Br:14])[cH:15][cH:16][n:17]1>>[C:1]([CH3:2])(=[O:3])[NH:10][CH:9]([CH2:8][CH2:7][CH2:6][O:5][CH3:4])[c:11]1[cH:12][c:13]([Br:14])[cH:15][cH:16][n:17]1,[CH3:4][O:5][CH2:6][CH2:7][CH2:8][CH:9]([NH2:10])[c:11]1[cH:12][c:13]([Br:14])[cH:15][cH:16][n:17]1.[OH:101][C:1]([CH3:2])=[O:3].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH3:2])(=[O:3])[NH:10][CH:9]([CH2:8][CH2:7][CH2:6][O:5][CH3:4])[c:11]1[cH:12][c:13]([Br:14])[cH:15][cH:16][n:17]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (10, 1), ([1, 3], 3), (303, 10.1), ([10.1, 10], 10), (3, [3, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
